US09193688B2
N-isobutyl isatoic anhydride (19).
Reagents: Isatoic anhydride (6.13 mmols, 1 g); Sodium hydride (9.2 mmols, 0.22 g); isobutyl iodide (18 mmols, 3.4 g). Yield: 0.6 g (46%), white solid, m.p.=85° C.-86° C.

reactant | Isatoic anhydride | 6.13 mmols, 1 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | Sodium hydride | 9.2 mmols, 0.22 g | [H-].[Na+]
reactant | isobutyl iodide | 18 mmols, 3.4 g | C(C(C)C)I | C4H9I
product | N-isobutyl isatoic anhydride | C(C(C)C)N1C=2C(C(=O)OC1=O)=CC=CC2 | C12H13NO3
